US04604390
2-[2-(Diethylamino)ethyl]-5-nitro-2H-[1]benzoselenino-[4,3,2-cd]indazol-8-ol, hydrochloride
To an ice-cold solution of 1.59 g (0.004 mole) of 1-chloro-6-hydroxy-4-nitro-9H-selenoxanthen-9-one in 12 ml of N,N-dimethylformamide with 0.85 ml of diisopropylethyl amine is added 0.85 ml of 2-(diethylaminoethyl)hydrazine. The cooling bath is removed and the mixture is stirred at 25° C. for 2.5 hours. Concentration of the reaction in vacuo leaves an orange solid. Trituration of the solid with boiling 2-propanol gives an orange powder which is dried in vacuo at 80° C. to afford 1.66 g of the dry product as a salt with 1.0 equivalents of hydrogen chloride; mp 255°-257° C. (dec.).

reactant | 1-chloro-6-hydroxy-4-nitro-9H-selenoxanthen-9-one | 0.004 mole, 1.59 g | ClC1=CC=C(C=2[Se]C3=CC(=CC=C3C(C12)=O)O)[N+](=O)[O-] | C13H6ClNO4Se
reactant | diisopropylethyl amine | 0.85 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(diethylaminoethyl)hydrazine | 0.85 ml | C(C)N(CC)CCNN | C6H17N3
reactant | hydrogen chloride | 1.0 equivalents | Cl | ClH
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-[2-(Diethylamino)ethyl]-5-nitro-2H-[1]benzoselenino-[4,3,2-cd]indazol-8-ol, hydrochloride | 1.66 g | Cl.C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])[Se]C1=C2C=CC(=C1)O)CC | InChI=1S/C19H20N4O3Se.ClH/c1-3-21(4-2)9-10-22-14-7-8-15(23(25)26)19-17(14)18(20-22)13-6-5-12(24)11-16(13)27-19;/h5-8,11,24H,3-4,9-10H2,1-2H3;1H
